data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_327017_0,[C:1]([C:4]([H:18])([H:19])[H:20])([N:6]([C:2]([H:12])([H:13])[H:14])/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:9]/[C:3]([H:15])([H:16])[H:17])([O:8][H:10])[H:11]>>[C@@:1]([C:4]([H:18])([H:19])[H:20])([O:8][H:10])([N:9]([C:3]([H:15])([H:16])[H:17])/[C:7]([C:5]([H:21])([H:22])[H:23])=[N:6]\[C:2]([H:12])([H:13])[H:14])[H:11],61.38456000000176
MR_388635_1,[C:1]([C:5]([C:2]([H:15])([H:19])[H:20])=[N:9][C:3](=[C:4]([N:6]([H:11])[H:13])[N:7]([H:12])[H:14])[O:8][H:10])([H:16])([H:17])[H:18]>>[C:1]([C:5]1([C:2]([H:15])([H:19])[H:20])[C:4]([N:6]([H:11])[H:13])([N:7]([H:12])[H:14])[C:3]([O:8][H:10])=[N:9]1)([H:16])([H:17])[H:18],42.22886749999773
MR_608634_1,[C:1](=[C:5]([H:14])[H:15])([O:6]/[C:4](=[C:2](/[N:3]([H:11])[H:12])[O:8][H:10])[H:13])[O:7][H:9]>>[C:1]([C:2]([N:3]([H:11])[H:12])([C:4](=[O:6])[H:13])[O:8][H:10])(=[C:5]([H:14])[H:15])[O:7][H:9],62.04029750002263
MR_413416_0,[C:1]([C:2](/[C:3]([N:4]([H:10])[H:11])=[C:6](/[N:5]([H:12])[H:13])[H:14])=[N:8]/[O:7][H:9])([H:15])([H:16])[H:17]>>[C:1]([C:2]1=[C:3]([N:4]([H:10])[H:11])[C:6]([N:5]([H:12])[H:13])([H:14])[N:8]1[O:7][H:9])([H:15])([H:16])[H:17],34.87582250001438
MR_50060_0,[C:1]([C:3]([H:14])([H:15])[H:16])([C:5]([C:4]([H:17])([H:18])[H:19])=[O:9])([O:6][O:7][C:2]([H:11])([H:12])[H:13])[O:8][H:10]>>[C:1]([C:3]([H:14])([H:15])[H:16])([O:6][C:5]([C:4]([H:17])([H:18])[H:19])=[O:9])([O:7][C:2]([H:11])([H:12])[H:13])[O:8][H:10],38.41868749998682
MR_7502_0,[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[N:6][C:4]([N:5]([H:8])[H:9])[N:3]1[H:7]>>[C:1]1([H:10])([H:11])[C:2]([H:12])([H:13])[N:6]1/[C:4](=[N:3]/[H:7])[N:5]([H:8])[H:9],69.3989900000274
MR_168181_0,[C:1]([C:2]([H:8])([H:9])[H:10])([O:3][N:4]=[O:5])([H:6])[H:7]>>[C:1]([C:2]([H:8])([H:9])[H:10])([O:5][N:4]=[O:3])([H:6])[H:7],39.29844249997714
MR_235028_0,[C:1]([N:3]([C:4](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:10])=[O:8])[O:6][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]([N:3](/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:10])[O:6][H:9])=[O:8])([H:11])([H:12])[H:13],52.81730249998077
MR_266690_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:5](=[C:6]([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])([H:21])[H:22])[N:7]([H:10])[H:11])([N:8]([H:12])[H:13])[H:9]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:5](\[C:6]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[H:9])[N:7]([H:10])[H:11])[N:8]([H:12])[H:13],69.56904249999042
MR_11192_1,[C:1]([N:3]([C:2]([H:9])([H:10])[H:11])[H:6])([N:4]=[O:5])([H:7])[H:8]>>[C:1]1([H:7])([H:8])[N:3]([C:2]([H:9])([H:10])[H:11])[N:4]1[O:5][H:6],60.34542000002148
MR_357980_0,[N:1](/[C:2]([O:5][H:7])=[N:6]/[N:4]([H:11])[H:12])([N:3]([H:9])[H:10])[H:8]>>[N:1](=[C:2](\[O:5][H:7])[N:6]([N:4]([H:11])[H:12])[H:8])\[N:3]([H:9])[H:10],41.90382250003367
MR_602511_0,[N:1]([C:2](=[O:5])[H:8])(/[N:3]=[N:4]\[H:7])[H:6]>>[N:1](=[N:3]/[N:4]([C:2](=[O:5])[H:8])[H:7])\[H:6],31.358685000012656
MR_108370_1,[C:1](/[C:4](=[N:2]\[H:8])[O:7]/[C:3]([N:5]([H:9])[H:10])=[N:6]/[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]([N:2](/[C:3]([N:5]([H:9])[H:10])=[N:6]/[H:11])[H:8])=[O:7])([H:12])([H:13])[H:14],39.89644999996543
MR_185832_2,[C:1]([C:4]([C:2]([H:12])([H:13])[H:16])=[O:8])([C:5]([C:3]([H:14])([H:15])[H:17])=[O:9])([O:6][H:10])[O:7][H:11]>>[C:1](=[C:4]([C:2]([H:12])([H:13])[H:16])[O:8][C:5]([C:3]([H:14])([H:15])[H:17])=[O:9])([O:6][H:10])[O:7][H:11],51.607482500003385
MR_508355_1,[C@:1](/[C:3]([C:2]([H:14])([H:15])[H:16])=[N:7]/[O:6][H:9])([N:4]([H:11])[H:12])([C:5](=[O:8])[H:13])[H:10]>>[C:1](=[C:3](\[C:2]([H:14])([H:15])[H:16])[N:7]([C:5](=[O:8])[H:13])[O:6][H:9])(\[N:4]([H:11])[H:12])[H:10],49.08305000002784
MR_567573_0,[C:1]([C@:2]([C:4](=[O:8])[H:16])([N:7]([H:13])[H:14])[H:15])([C:3]([H:17])([H:18])[H:19])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([N:7]([H:13])[H:14])([H:15])[H:16])=[O:8])([N:5]([H:9])[H:10])[N:6]([H:11])[H:12],53.250904999991775
MR_386926_0,[C:1]([C:2](=[C:3]([N:6]([H:15])[H:16])[N:7]([H:13])[H:14])[N:5]([H:11])[H:12])([N:4]([H:9])[H:10])=[O:8]>>[C:1]([C:3](=[C:2]([N:5]([H:11])[H:12])[N:6]([H:15])[H:16])[N:7]([H:13])[H:14])([N:4]([H:9])[H:10])=[O:8],69.99134999999427
MR_342000_0,[C:1](/[C:3]([N:4]([H:9])[H:10])=[N:7]\[C:2]([H:15])([H:16])[H:17])([N:5]([H:12])[H:13])([N:6]([H:11])[H:14])[H:8]>>[C:1]1([N:6]([H:11])[H:14])([H:8])[C:3]([N:4]([H:9])[H:10])([N:5]([H:12])[H:13])[N:7]1[C:2]([H:15])([H:16])[H:17],64.87910749998917
MR_551081_0,[C:1](/[C:4](=[N:2]/[H:9])[C:3]([N:5]([H:11])[H:12])([N:6]([H:10])[H:13])[C:7](=[O:8])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]([N:2]([C:7](=[O:8])[H:14])[H:9])=[C:3]([N:5]([H:11])[H:12])[N:6]([H:10])[H:13])([H:15])([H:16])[H:17],41.22863250002624
MR_94959_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[C:5](/[C:3]([O:7][H:10])=[N:8]\[O:6][H:9])[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:4]1([C:2]([H:14])([H:15])[H:16])[C:5]([H:11])=[C:3]([O:7][H:10])[N:8]1[O:6][H:9])([H:12])([H:13])[H:17],62.98907749998136
